US07531545B2
A solution of methyl 1,2,4-triazole-2-carboxylate (6.89 g, 54.2 mmole), benzyl bromide (7.7 mL, 65.0 mmol) and potassium carbonate (11.24 g, 81.3 mmol) in acetonitrile (100 mL) was refluxed overnight. The solution was then filtered and concentrated to a residue. The residue was dissolved in diethyl ether. The solution washed with 1N sodium hydroxide one time and water one time, and then dried over MgSO4. The solution was filtered and concentrated to yield 1-benzyl-1H-[1,2,4]triazole-3-carboxylic acid methyl ester as a brown oil, which was used in next step without further purification.

reactant | methyl 1,2,4-triazole-2-carboxylate | 54.2 mmole, 6.89 g | N=1N(C=NC1)C(=O)OC | C4H5N3O2
reactant | benzyl bromide | 65.0 mmol, 7.7 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 81.3 mmol, 11.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1-benzyl-1H-[1,2,4]triazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C=N1)CC1=CC=CC=C1 | C11H11N3O2
